US03989680
A solution of 14.1 g. of o-fluoronitrobenzene in 175 ml. of ethanol and 25 ml. of dimethyl sulfoxide was hydrogenated using 350 mg. of platinum oxide until two equivalents of hydrogen were taken up. The solution of o-fluorophenylhydroxylamine was poured into a solution of 32.5 g. of ferric chloride in 500 ml. of water containing 18 ml. of sulfuric acid at 0°C. After being stirred for 30 minutes, the mixture was shaken with ether and the water was separated. The etheral solution was dried and concentrated to give 10.0 g. of crude o-fluoronitrosobenzene. This was dissolved in 250 ml. of ethyl acetate, cooled to 0°C., and 35.0 g. of mercuric oxide was added. Then 4.8 g. of dimethylhydrazine in 50 ml. of ethyl acetate was added in a dropwise fashion. The mixture was stirred 16 hours at 25°C. and was then filtered through infusorial earth. The filtrate was concentrated and chromatographed on 300 ml of silica in benzene. The product was eluted with ethyl acetate in benzene. One and seven tenths grams of 3,3-dimethyl-1-(o-fluorophenyl)triazene-1-oxide was obtained as a brown oil which gave a satisfactory n.m.r. spectrum.

reactant | o-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrogen | two equivalents | [H][H] | H2
reactant | o-fluorophenylhydroxylamine | FC1=C(C=CC=C1)NO | C6H6FNO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | o-fluoronitrosobenzene | FC1=C(C=CC=C1)N=O | C6H4FNO
reactant | dimethylhydrazine | CNNC | C2H8N2
catalyst | platinum oxide | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 18 ml | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | ethanol | C(C)O | C2H6O
product | 3,3-dimethyl-1-(o-fluorophenyl)triazene-1-oxide | CN(N=[N+](C1=C(C=CC=C1)F)[O-])C | C8H10FN3O
